US03978093
A solution of 6.75 g. (31.5 mmol.) of crude (Z)-1-chloro-1,2-epoxy-2-methyl-3-(1-methoxy-ethenyl)-5-heptene in 350 ml. of 2:1 tetrahydrofuran: 10% by weight aqueous hydrochloric acid was stirred at room temperature for 30 minutes, concentrated, extracted with diethyl ether, the ethereal extracts washed with water and saturated aqueous sodium chloride, dried (Na2SO4) and concentrated to afford (Z)-1-chloro-1,2-epoxy-2-methyl-3-acetyl-5-heptene as a yellow oil.

reactant | (Z)-1-chloro-1,2-epoxy-2-methyl-3-(1-methoxy-ethenyl)-5-heptene | 31.5 mmol | ClC1C(C(C\C=C/C)C(=C)OC)(C)O1 | C11H17ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (Z)-1-chloro-1,2-epoxy-2-methyl-3-acetyl-5-heptene | ClC1C(C(C\C=C/C)C(C)=O)(C)O1 | C10H15ClO2
